US09145433B2
A reaction flask was charged 6-chloro-4-methoxypyrido[3,2-d]pyrimidine (3.5 g, 17.8 mmol), 2-chloro-3-pyridineboronic acid pinacol ester (4.35 g, 18.2 mmol), Na2CO3 (4.0 g, 38.2 mmol) and 1,4-dioxane (100 mL) and a stir bar. The contents were degassed by vacuum and back filled with argon three times while stirring. Subsequently, Pd(PPh3)3 (0.87 g, 0.75 mmol) was added to the reaction contents, repeated degassing cycles and heated under argon at 98° C. The heating was stopped after overnight, the yellow hot heterogeneous reaction mixture was suction filtered on a Buchner funnel and washed the cake with additional amount of dioxane (30 mL). The pale yellow clear filtrate solution was passed through a pad of Celite® and concentrated the filtrate. The crude pale yellow solid residue was partitioned between CH2Cl2 (150 mL)/water (50 mL). The organic layer was separated, dried over MgSO4, filtered and concentrated. The crude concentrate was stirred in EtOAc (30 mL) and suction filtered. The filter cake was washed further with EtOAc (10 mL) and dried to obtain 1.6 g of 6-(2-chloropyridin-3-yl)-4-methoxypyrido[3,2-d]pyrimidine (purity: 95%) as a white solid. The filtrate was concentrated and purified the concentrate by flash column chromatography (Combiflash® companion System® with RediSep® silica gel column 40 g, 0-30-60% EtOAC/hexanes eluting solvent gradient) to obtain additional 0.65 g of titled compound. 1H NMR (300 MHz, DMSO-d6): δ 8.92 (s, 1H), 8.57 (dd, J=4.8, 2.0 Hz, 1H), 8.45 (d, J=8.7 Hz, 1H), 8.28 (d, J=8.7 Hz, 1H), 8.13 (dd, J=7.6, 2.0 Hz, 1H), 7.63 (dd, J=7.6, 4.8 Hz, 1H), 4.16 (s, 3H).

reactant | 6-chloro-4-methoxypyrido[3,2-d]pyrimidine | 17.8 mmol, 3.5 g | ClC=1C=CC=2N=CN=C(C2N1)OC | C8H6ClN3O
reactant | 2-chloro-3-pyridineboronic acid pinacol ester | 18.2 mmol, 4.35 g | ClC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C11H15BClNO2
reactant | Na2CO3 | 38.2 mmol, 4.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 6-(2-chloropyridin-3-yl)-4-methoxypyrido[3,2-d]pyrimidine | 1.6 g | ClC1=NC=CC=C1C=1C=CC=2N=CN=C(C2N1)OC | C13H9ClN4O
